US09168259B2
A solution of 5.2 g (23.7 mmol) 2,6-dichloro-4-methyl-pyridine-3-carboxylic acid methylester, 3.94 g (28.5 mmol) K2CO3 and 2.06 ml (23.7 mmol) morpholine in DMF (48 ml) was heated to 60° C. for 16 h. Then the mixture was poured into water and extracted with EtOAc. The organic layer was washed with water and brine, dried over Na2SO4 and concentrated in vacuo. Purification of the residue by CC (hexane/EtOAc 4:1) provided 1.95 g (7.2 mmol, 30%) 2-chloro-4-methyl-6-morpholino-pyridine-3-carboxylic acid methylester.

reactant | 2,6-dichloro-4-methyl-pyridine-3-carboxylic acid methylester | 23.7 mmol, 5.2 g | COC(=O)C=1C(=NC(=CC1C)Cl)Cl | C8H7Cl2NO2
reactant | K2CO3 | 28.5 mmol, 3.94 g | C(=O)([O-])[O-].[K+].[K+]
reactant | morpholine | 23.7 mmol, 2.06 ml | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
solvent | DMF | 48 ml | CN(C)C=O | C3H7NO
product | 2-chloro-4-methyl-6-morpholino-pyridine-3-carboxylic acid methylester | 7.2 mmol, 1.95 g, 30% | COC(=O)C=1C(=NC(=CC1C)N1CCOCC1)Cl | C12H15ClN2O3
